US06475595B1
53 g of 1-ethoxy-2,3-difluoro-4-(4-pentylcyclohex-3-enyl)benzene were dissolved in 500 ml of THF, and the mixture was cooled to 2° C. 195 ml of borane/THF complex were subsequently added dropwise over the course of 30 minutes with stirring. After the mixture had been stirred for a further 2 hours, 48 ml of ethanol were added dropwise to the solution at RT. Subsequently, firstly a solution of 10.6 g of sodium hydroxide and then 63 ml of 30% hydrogen peroxide were added dropwise. The mixture was subsequently refluxed for 2 hours and subjected to conventional work-up, giving 5-(4-ethoxy-2,3-difluorophenyl)-2-pentylcyclohexanol.

reactant | 1-ethoxy-2,3-difluoro-4-(4-pentylcyclohex-3-enyl)benzene | 53 g | C(C)OC1=C(C(=C(C=C1)C1CC=C(CC1)CCCCC)F)F | C19H26F2O
reactant | ethanol | 48 ml | C(C)O | C2H6O
reactant | sodium hydroxide | 10.6 g | [OH-].[Na+]
reactant | hydrogen peroxide | 63 ml | OO | H2O2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 5-(4-ethoxy-2,3-difluorophenyl)-2-pentylcyclohexanol | C(C)OC1=C(C(=C(C=C1)C1CCC(C(C1)O)CCCCC)F)F | C19H28F2O2
